US04312876
Trans-1-allyl-4-(4-fluorophenoxy)-3-phenylpiperidine fumarate
A mixture of 4.34 g of trans-4-(4-fluorophenoxy)-3-phenylpiperidine, 4.8 g of anhydrous potassium carbonate, 1.52 ml of allyl bromide and 64 ml of dry dimethylformamide is heated and vigorously stirred overnight at 61° C. under nitrogen. The mixture is cooled to room temperature and partitioned between water (300 ml) and ether (500 ml). The phases are separated and the ether phase is washed with water (3×300 ml), followed by 300 ml of saturated sodium chloride solution. After drying over anhydrous sodium sulfate the ether extracts are filtered and concentrated in vacuo to a light orange oil. The oil is dissolved in ether (100 ml) and treated dropwise with a solution of 1.4 g of fumaric acid in a mixture of ether (125 ml) and ethanol (25 ml). The solvent is removed in vacuo, and the residue triturated with ether containing a small amount of ethanol. Filtration and washing with ether followed by recrystallization from about 100 ml of boiling ethyl acetate with concentration of the filtrate to about 60 ml affords upon cooling and washing with ethyl acetate and ether product as nearly colorless crystals, mp 138°-139.5° C.

reactant | trans-4-(4-fluorophenoxy)-3-phenylpiperidine | 4.34 g | FC1=CC=C(O[C@H]2[C@@H](CNCC2)C2=CC=CC=C2)C=C1 | C17H18FNO
reactant | potassium carbonate | 4.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 1.52 ml | C(C=C)Br | C3H5Br
reactant | dimethylformamide | 64 ml | CN(C=O)C | C3H7NO
product | Trans-1-allyl-4-(4-fluorophenoxy)-3-phenylpiperidine fumarate | C(\C=C\C(=O)O)(=O)O.C(C=C)N1C[C@H]([C@@H](CC1)OC1=CC=C(C=C1)F)C1=CC=CC=C1 | InChI=1S/C20H22FNO.C4H4O4/c1-2-13-22-14-12-20(23-18-10-8-17(21)9-11-18)19(15-22)16-6-4-3-5-7-16;5-3(6)1-2-4(7)8/h2-11,19-20H,1,12-15H2;1-2H,(H,5,6)(H,7,8)/b;2-1+/t19-,20+;/m0./s1
